US08202858B2
(1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-[3-fluoro-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone Dihydrochloride
4-{3-[4-(1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulene-6-carbonyl)-2-fluoro-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester from Example E69.1 (110 mg, 0.17 mmol) was dissolved in methanol (5 ml) and 4M HCl in dioxan (2 ml) was added. The mixture was stirred for 20 h at room temperature then concentrated in vacuo to yield the title compound (105 mg, 100%).

reactant | 4-{3-[4-(1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulene-6-carbonyl)-2-fluoro-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(=O)N1C2=C(C=3N(C(=NC3CC1)C)CC1=CC=CC=C1)C=CC=C2)F | C38H44FN5O4
reactant | HCl | 4M | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | dioxan | 2 ml | O1CCOCC1 | C4H8O2
product | (1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-[3-fluoro-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone Dihydrochloride | 105 mg, 100% | Cl.Cl.C(C1=CC=CC=C1)N1C(=NC=2CCN(C3=C(C12)C=CC=C3)C(=O)C3=CC(=C(C=C3)OCCCN3CCNCC3)F)C | InChI=1S/C33H36FN5O2.2ClH/c1-24-36-29-14-18-38(30-11-6-5-10-27(30)32(29)39(24)23-25-8-3-2-4-9-25)33(40)26-12-13-31(28(34)22-26)41-21-7-17-37-19-15-35-16-20-37;;/h2-6,8-13,22,35H,7,14-21,23H2,1H3;2*1H
